US06013658
(3E,5R)5-Amino-6-(2-naphthyl)-2-((2-naphthyl)methyl)hex-3-en-1-ol
((1R)-4-(tert-Butyldimethylsilanyloxymethyl)-1-((2-naphthyl)methyl)-5-(2-naphthyl)pent-2-enyl)carbamic acid tert-butylester (2.20 g; 3.60 mmol) was dissolved in a mixture of acetonitrile (100 ml) and an aqueous solution of hydrogen fluoride (48%, 4.5 ml). After stirring for 3 h a mixture of ethyl acetate (200 ml) and aqueous sodium carbonate (10%, 200 ml) was added. The phases were separated and the organic phase was dried (Magnesium sulfate) and evaporated in vacuo. The residue was chromatographed on silica (4×38 cm) using a mixture of ethyl acetate (85%), ethanol (14%) and conc. aqueous ammonia (1%) as eluent. Two close spots were separated this way. The one that eluted first was clean on HPLC whereas the following contained several isomers. The first fraction had E-geometry and 220 mg of (3E,5R)-5-amino-6-((2-naphthyl)-2-(2-naphthyl)methyl)hex-3-en-1-ol were taken to the next step.

reactant | ((1R)-4-(tert-Butyldimethylsilanyloxymethyl)-1-((2-naphthyl)methyl)-5-(2-naphthyl)pent-2-enyl)carbamic acid tert-butylester | 3.60 mmol, 2.20 g | C(C)(C)(C)OC(N[C@@H](C=CC(CC1=CC2=CC=CC=C2C=C1)CO[Si](C)(C)C(C)(C)C)CC1=CC2=CC=CC=C2C=C1)=O | C38H49NO3Si
reactant | hydrogen fluoride | 4.5 ml | F | FH
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium carbonate | 200 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | (3E,5R)5-Amino-6-(2-naphthyl)-2-((2-naphthyl)methyl)hex-3-en-1-ol | N[C@@H](/C=C/C(CO)CC1=CC2=CC=CC=C2C=C1)CC1=CC2=CC=CC=C2C=C1 | C27H27NO
